US03963725
To a mixture of n-butanol (10 ml), water (2.5 ml) and concentrated hydrochloric acid (1 drop) were added 3,4-dihydroxyphenethylamine hydrochloride (0.63 g) and (4-methylthiophenoxy)acetaldehyde diethyl acetal (1.0 g), and the mixture was refluxed for 5 hours. After the reaction, the reaction mixture was concentrated to dryness under reduced pressure. The residue was crystallized by adding acetone, and the crystals were recrystallized by adding acetone, and the crystals were recryatallized from a mixture solvent of methanol and ether to give 1-(4-methylthiophenoxy)methyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (1.2 g), mp 270°C (dec.).

reactant | n-butanol | 10 ml | C(CCC)O | C4H10O
reactant | 3,4-dihydroxyphenethylamine hydrochloride | 0.63 g | Cl.OC=1C=C(CCN)C=CC1O
reactant | (4-methylthiophenoxy)acetaldehyde diethyl acetal | 1.0 g | C(C)OC(CSC1=CC=C(C=C1)C)OCC | C13H20O2S
catalyst | hydrochloric acid | 1 drop | Cl | ClH
solvent | water | 2.5 ml | O | H2O
product | 1-(4-methylthiophenoxy)methyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 1.2 g | Cl.CC1=CC=C(SCC2NCCC3=CC(=C(C=C23)O)O)C=C1 | InChI=1S/C17H19NO2S.ClH/c1-11-2-4-13(5-3-11)21-10-15-14-9-17(20)16(19)8-12(14)6-7-18-15;/h2-5,8-9,15,18-20H,6-7,10H2,1H3;1H
